data/oMe_Silver.jsonl
{"reaction_id": "NR-332_1-c2ccccc2_2-F_3-C(C)(C)C_4-Cl","level": "hard","name": "Reimer-Tiemann Formylation","reactants_smiles": ["c1(O)c(c2ccccc2)c(F)c(C(C)(C)C)c(Cl)c1","ClC(Cl)Cl","[OH-]"],"products_smiles": ["c1(O)c(c2ccccc2)c(F)c(C(C)(C)C)c(Cl)c1(C=O)"],"conditions": "Strong base (e.g., KOH), Heat","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](Cl)Cl","step_weight": 0,"rationale": "Strong base abstracts a proton from chloroform, and the adjacent chloride leaves due to the stability of the resulting dichlorocarbene under these conditions."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(=O)C([C-](Cl)Cl)C(c2ccccc2)=C(F)C(C(C)(C)C)=C1(Cl)","step_weight": 0,"rationale": "The electron-rich aromatic ring, activated by the ortho/para-directing hydroxyl group, attacks the electrophilic dichlorocarbene to form a cyclohexadienyl intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1([O-])c(c2ccccc2)c(F)c(C(C)(C)C)c(Cl)c1(C(Cl)Cl)","step_weight": 0,"rationale": "Base deprotonates the phenolic OH, increasing electron density on the ring and stabilizing the intermediate via resonance."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CCl)C(Cl)=C(C(C)(C)C)C(F)=C1(c2ccccc2)","step_weight": 0,"rationale": "Loss of chloride from the benzylic position is favored due to resonance stabilization of the resulting cationic character in the aromatic system."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1([O-])c(C(O)Cl)c(Cl)c(C(C)(C)C)c(F)c1(c2ccccc2)","step_weight": 0,"rationale": "Hydroxide attacks the electrophilic carbon bearing chlorine, driven by the strong leaving group ability of chloride and the polar medium."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CO)C(Cl)=C(C(C)(C)C)C(F)=C1(c2ccccc2)","step_weight": 0,"rationale": "Elimination of chloride from the geminal chlorohydrin intermediate forms the aldehyde functionality, favored by the stability of the carbonyl."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(O)c(c2ccccc2)c(F)c(C(C)(C)C)c(Cl)c1(C=O)","step_weight": 0,"rationale": "Protonation of the phenoxide restores the neutral phenol, completing the ortho-formylation."}],"description": "Under strongly basic and heated conditions, chloroform undergoes deprotonation and α-elimination to generate dichlorocarbene, which electrophilically attacks the activated aromatic ring ortho to the hydroxyl group. Subsequent hydrolysis and elimination steps convert the carbene adduct into the ortho-formylated phenol via the Reimer–Tiemann pathway."}
{"reaction_id": "NR-225_1-c1cnccc1","level": "medium","name": "Pinnick-Lindgren Oxidation","reactants_smiles": ["C(c1cnccc1)C=O","Cl(=O)([O-])"],"products_smiles": ["C(c1cnccc1)C(=O)O"],"conditions": "NaH2PO4, t-BuOH, 2-methyl-2-butene","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)C(O)O(Cl=O)","step_weight": 0,"rationale": "The aldehyde carbonyl is highly electrophilic due to the polarized C=O bond, enabling nucleophilic attack by chlorite under buffered conditions, forming a tetrahedral intermediate stabilized by adjacent oxygen lone pairs."},{"step": 2,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1cnccc1)C(=O)O","step_weight": 0,"rationale": "Rearrangement proceeds as electron shifts favor formation of the more stable carboxylate, driven by strong thermodynamic stability of the C=O in acids and elimination of HClO as a good leaving group."}],"description": "In the Pinnick-Lindgren oxidation, chlorite ion selectively oxidizes aldehydes to carboxylic acids under mild, buffered conditions. Nucleophilic attack on the electrophilic carbonyl initiates the process, followed by rearrangement to release oxidized product while minimizing side reactions via chlorine scavenging."}
